US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(4-methoxybutyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(1,3-oxazol-5-yl)piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(4-methoxybutyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-formylpiperidine-1-carboxylate (235 mg) and tosylmethyl isocyanide (125 mg) were dissolved in methanol (4 ml), sodium methoxide (28% methanol solution, 325 mg) was added and the mixture was heated under reflux with stirring for 2 hr. The mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (5:95-100:0) was concentrated under reduced pressure to give the object product (98.5 mg).

reactant | tert-Butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(4-methoxybutyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-formylpiperidine-1-carboxylate | 235 mg | FC1=C(C=CC=C1)N1N=NC(=C1CCCCOC)C(=O)N([C@@H]1CN(C[C@@H](C1)C=O)C(=O)OC(C)(C)C)CC(C)C | C29H42FN5O5
reactant | tosylmethyl isocyanide | 125 mg | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | sodium methoxide | 325 mg | C[O-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
solvent | water | O | H2O
product | Tert-butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(4-methoxybutyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(1,3-oxazol-5-yl)piperidine-1-carboxylate | 98.5 mg | FC1=C(C=CC=C1)N1N=NC(=C1CCCCOC)C(=O)N([C@@H]1CN(C[C@@H](C1)C1=CN=CO1)C(=O)OC(C)(C)C)CC(C)C | C31H43FN6O5
